### PR TITLE
feat: compute trailing coefficients of factorized rational functions

### PR DESCRIPTION
**Pull request by kebekus**
Compute the trailing coefficient of factorized rational functions. Apply this to compute the trailing coefficient of arbitrary meromorphic functions, presented as a product of a factorized rational and an analytic function.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. It is one of the ingredients in the proof of Jensen's Formula in complex analysis.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/FactorizedRational.lean [hunk 1]
```diff
@@ -178,6 +180,93 @@ theorem divisor {U : Set 𝕜} {D : locallyFinsuppWithin U ℤ} (hD : D.support.
...
+
+open Classical in
+/--
+Compute the trailing coefficient of the factorized rational function associated with `d : 𝕜 → ℤ`.
+
+Low-priotity TODO: Using that non-trivially normed fields contain infinitely many elements that are
+no roots of unity, it might be possible to drop assumption `h` here and in some of the theorems
+below.
+-/
+theorem meromorphicTrailingCoeffAt_factorizedRational {d : 𝕜 → ℤ} {x : 𝕜} (h : d.support.Finite) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/FactorizedRational.lean:203]: I guess the statement is true without the assumption `h` (everything vanishes), and same thing for all the next theorems. However, I'm not sure it's worth the pain proving it, because in all interesting applications this finiteness application will be trivial to verify. What do you think?

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/FactorizedRational.lean:203]: @sgouezel Thanks for coming back to this. I thought about that and experimented a little. In the end, the proof became quite long. To relate the two mulSupports on the left and right of the equation, I ended up using (and proving) that non-trivially normed fields contain infinitely many elements that are not roots of unity. While this is certainly correct and doable, I felt that the extra generality obtained is not worth the effort unless there are real-world use cases.

Comment (sgouezel) [reply Mathlib/Analysis/Meromorphic/FactorizedRational.lean:203]: Could you pull the TODO out of the docstring, and into a normal comment (introduced with `/-` instead of `/--`? That's some kind of an implementation detail, so users of the theorem just hovering on it shouldn't be bothered with that.

File: Mathlib/Analysis/Meromorphic/FactorizedRational.lean [hunk 2]
```diff
@@ -284,3 +374,43 @@ theorem MeromorphicOn.extract_zeros_poles_log {f g : 𝕜 → E} {D : Function.l
...
   rw [log_mul (Finset.prod_ne_zero_iff.2 this) (by simp [hg ⟨z, h₃z⟩]), log_prod _ _ this]
   simp [log_zpow]
+
+open Classical in
+/--
+In the setting of `MeromorphicOn.extract_zeros_poles`, compute the trailing
+coefficient of `f` in terms of `divisor f U` and `g x`.
+-/
+theorem MeromorphicOn.meromorphicTrailingCoeffAt_extract_zeros_poles
+    {x : 𝕜} {f g : 𝕜 → E} {D : 𝕜 → ℤ} (hD : D.support.Finite)  (h₁x : x ∈ U) (h₂x : AccPt x (𝓟 U))
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/FactorizedRational.lean]:
```suggestion
    {x : 𝕜} {f g : 𝕜 → E} {D : 𝕜 → ℤ} (hD : D.support.Finite) (h₁x : x ∈ U) (h₂x : AccPt x (𝓟 U))
```

File: Mathlib/Analysis/Meromorphic/FactorizedRational.lean [hunk 3]
```diff
@@ -284,3 +374,43 @@ theorem MeromorphicOn.extract_zeros_poles_log {f g : 𝕜 → E} {D : Function.l
...
+    (hf : MeromorphicAt f x) (h₁g : AnalyticAt 𝕜 g x) (h₂g : g x ≠ 0)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/FactorizedRational.lean:385]: Can't you remove the `hf` assumption, deducing it from `h` below?

File: Mathlib/Analysis/Meromorphic/FactorizedRational.lean [hunk 4]
```diff
@@ -284,3 +374,43 @@ theorem MeromorphicOn.extract_zeros_poles_log {f g : 𝕜 → E} {D : Function.l
...
+    h₁g.meromorphicTrailingCoeffAt_of_ne_zero h₂g]
+  simp [meromorphicTrailingCoeffAt_factorizedRational hD]
+
+/--
+In the setting of `MeromorphicOn.extract_zeros_poles`, compute the log of the
+norm of the trailing coefficient of `f` in terms of `divisor f U` and `g x`.
+-/
+theorem MeromorphicOn.meromorphicTrailingCoeffAt_extract_zeros_poles_log
+    {x : 𝕜} {f g : 𝕜 → E} {D : 𝕜 → ℤ} (hD : D.support.Finite) (h₁x : x ∈ U) (h₂x : AccPt x (𝓟 U))
+    (hf : MeromorphicAt f x) (h₁g : AnalyticAt 𝕜 g x) (h₂g : g x ≠ 0)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/FactorizedRational.lean:402]: ditto

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 5]
```diff
@@ -141,6 +141,34 @@ lemma MeromorphicAt.meromorphicTrailingCoeffAt_ne_zero (h₁ : MeromorphicAt f x
   obtain ⟨g, h₁g, h₂g, h₃g⟩ := (meromorphicOrderAt_ne_top_iff h₁).1 h₂
   simpa [h₁g.meromorphicTrailingCoeffAt_of_ne_zero_of_eq_nhdsNE h₂g h₃g] using h₂g
 
+/--
+The trailing coefficient of a constant function is the constant.
+-/
+theorem meromorphicTrailingCoeffAt_const {x : 𝕜} {e : 𝕜} :
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean:147]: make it `@[simp]`?

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 6]
```diff
@@ -141,6 +141,34 @@ lemma MeromorphicAt.meromorphicTrailingCoeffAt_ne_zero (h₁ : MeromorphicAt f x
...
+    meromorphicTrailingCoeffAt (fun _ ↦ e) x = e := by
+  by_cases he : e = 0
+  · rw [he]
+    apply MeromorphicAt.meromorphicTrailingCoeffAt_of_order_eq_top
+    rw [meromorphicOrderAt_eq_top_iff]
+    simp
+  · exact analyticAt_const.meromorphicTrailingCoeffAt_of_ne_zero he
+
+open Classical in
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean:156]: Instead of this line, can you assume `[DecidableEq 𝕜]` in the statement? You never know how if you won't create a diamond in some applications otherwise.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 7]
```diff
@@ -141,6 +141,34 @@ lemma MeromorphicAt.meromorphicTrailingCoeffAt_ne_zero (h₁ : MeromorphicAt f x
...
+The trailing coefficient of `fun z ↦ z - constant` at `z₀` equals one if `z₀ = constant`, or else
+`z₀ - constant`.
+-/
+theorem meromorphicTrailingCoeffAt_id_sub_const {x y : 𝕜} :
+    meromorphicTrailingCoeffAt (· - y) x = if x = y then 1 else x - y := by
+  by_cases h : x = y
+  · simp_all only [sub_self, ite_true]
+    apply AnalyticAt.meromorphicTrailingCoeffAt_of_ne_zero_of_eq_nhdsNE (n := 1) (by fun_prop)
+      (by apply one_ne_zero)
+    simp_all
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]:
```suggestion
    simp
```
I know you love `simp_all`, but when a bare `simp` it's better (in the sense it's more robust, so it will require less maintenance later on)

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 8]
```diff
@@ -196,6 +224,22 @@ lemma MeromorphicAt.meromorphicTrailingCoeffAt_mul {f₁ f₂ : 𝕜 → 𝕜} (
...
+    meromorphicTrailingCoeffAt (∏ n ∈ s, f n) x = ∏ n ∈ s, meromorphicTrailingCoeffAt (f n) x := by
+  classical
+  apply Finset.induction
+    (motive := fun b' ↦ (meromorphicTrailingCoeffAt (∏ n ∈ b' , f n) x =
+      ∏ n ∈ b', meromorphicTrailingCoeffAt (f n) x))
+  · simp only [Finset.univ_eq_empty, Finset.prod_empty, forall_const]
+    apply meromorphicTrailingCoeffAt_const
+  · intro σ s₁ hσ hind
+    rw [Finset.prod_insert hσ, Finset.prod_insert hσ, (h σ).meromorphicTrailingCoeffAt_mul
+      (MeromorphicAt.prod h), hind]
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean:241]: The `induction` tactic is nicer here: it guesses the motive for you, with
```
  classical
  induction s using Finset.induction with
  | empty => 
    simp only [Finset.univ_eq_empty, Finset.prod_empty, forall_const]
    apply meromorphicTrailingCoeffAt_const
  | insert σ s₁ hσ hind =>
    rw [Finset.prod_insert hσ, Finset.prod_insert hσ, (h σ).meromorphicTrailingCoeffAt_mul
      (MeromorphicAt.prod h), hind]
```

**Comment by kebekus** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26141

File: Mathlib/Analysis/Meromorphic/FactorizedRational.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/FactorizedRational.lean:203]: Done.

File: Mathlib/Analysis/Meromorphic/FactorizedRational.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/FactorizedRational.lean:385]: @sgouezel I do not think so. For a counterexample, let U be a closed ball, let x be a point on the boundary. Now take f as equal to an analytic function g on the closed ball, and white noise outside of U. Then, all assumptions are satisfied, but f is not meromorphic at x.

File: Mathlib/Analysis/Meromorphic/FactorizedRational.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/FactorizedRational.lean:402]: ditto

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean:147]: Done.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean:156]: Done.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean (hunk 8 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean:241]: Done.
